US06911465B1
Ethyl 4-chloroacetamido-N-(3,4-dichlorobenzyl)indole-2-carboxylate (0.4 g), glycine methyl ester hydrochloride (0.57 g) and triethylamine (1.25 ml) were dissolved in methoxyethanol (4.0 ml) and the reaction heated at 100° C. for 6 hours. The reaction was cooled and partitioned between water and ethyl acetate. Combined organic extracts were dried (MgSO4) and concentrated and the residue purified by chromatography using toluene:ethyl acetate (1:1) as eluent to give the product, ethyl 4-[(N-(methoxycarbonylmethyl)glycyl)amino]-N-(3,4-dichlorobenzyl)indole-2-carboxylate, as a pale yellow solid (0.17 g, 38%); NMR d (CD3SOCD3) 1.28 (t, 3H), 3.44 (s, 2H), 3.50 (s, 2H), 3.63 (s, 3H), 4.28 (q, 2H), 5.82 (s, 2H), 6.88 (dd, 1H), 7.10-7.30 (m, 4H), 7.50 (d, 1H), 7.69 (s, 1H), 7.80 (dd, 1H), 10.00 (brs, 1H); M/z (+) 494, 492 (M+).

reactant | Ethyl 4-chloroacetamido-N-(3,4-dichlorobenzyl)indole-2-carboxylate | 0.4 g | ClCC(=O)NC1=C2C=C(N(C2=CC=C1)CC1=CC(=C(C=C1)Cl)Cl)C(=O)OCC | C20H17Cl3N2O3
reactant | glycine methyl ester hydrochloride | 0.57 g | Cl.COC(CN)=O
reactant | triethylamine | 1.25 ml | C(C)N(CC)CC | C6H15N
solvent | methoxyethanol | 4.0 ml | COC(C)O | C3H8O2
product | ethyl 4-[(N-(methoxycarbonylmethyl)glycyl)amino]-N-(3,4-dichlorobenzyl)indole-2-carboxylate | COC(=O)CNCC(=O)NC1=C2C=C(N(C2=CC=C1)CC1=CC(=C(C=C1)Cl)Cl)C(=O)OCC | C23H23Cl2N3O5
